US09260427B2
Prepared using General Procedure 8: To a stirred solution of (S)-tert-butyl 2-(((benzyloxy)carbonyl)amino)-3-(4-(5-bromopyrimidin-2-yl)phenyl)propanoate (1.08 g, 2.11 mmol) INT-7 in DCM (10 mL) was added TFA (5 mL). After 16 h the mixture was diluted with toluene (10 mL) and evaporated. Further toluene (2×10 mL) was evaporated from the residue to afford 962 mg (100%) of (S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-bromopyrimidin-2-yl)phenyl)propanoic acid as an off-white solid. LCMS-ESI (m/z) calculated for C21H18BrN3O4: 455.1. found 456.0 [M+H]+, tR=5.81 min (Method 10).

reactant | (S)-tert-butyl 2-(((benzyloxy)carbonyl)amino)-3-(4-(5-bromopyrimidin-2-yl)phenyl)propanoate | 2.11 mmol, 1.08 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)Br | C25H26BrN3O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-bromopyrimidin-2-yl)phenyl)propanoic acid | 962 mg, 100% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC=C(C=N1)Br | C21H18BrN3O4
